* source ASTABLE_MULTIVIBRATOR
V_V1         N07381 0 3Vdc
R_R1         N10394 N07381  5k TC=0,0 
R_R2         N07413 N07381  24 TC=0,0 
R_R3         N07418 N07381  5k TC=0,0 
R_R4         N07425 N07381  24 TC=0,0 
C_C2         N07418 N07427  100u  TC=0,0 
Q_Q3         N07427 N10587 0 BC107A 
Q_Q4         N14054 N07418 0 BC107A 
Q_Q5         N10617 N10394 0 BC107A 
R_R6         N10591 N07381  24 TC=0,0 
C_C3         N10587 N10617  100u  TC=0,0 
R_R5         N10587 N07381  5k TC=0,0 
C_C4         N10394 N14054  100u  TC=0,0 
D_D1         N07413 N14054 Dbreak 
D_D2         N07413 N14054 Dbreak 
D_D3         N07413 N14054 Dbreak 
D_D4         N07413 N14054 Dbreak 
D_D5         N07413 N14054 Dbreak 
D_D10         N07425 N07427 Dbreak 
D_D6         N07425 N07427 Dbreak 
D_D7         N07425 N07427 Dbreak 
D_D9         N07425 N07427 Dbreak 
D_D8         N07425 N07427 Dbreak 
D_D15         N10591 N10617 Dbreak 
D_D11         N10591 N10617 Dbreak 
D_D13         N10591 N10617 Dbreak 
D_D14         N10591 N10617 Dbreak 
D_D12         N10591 N10617 Dbreak 
